US07977331B1
To a solution of ethyl (E)-3-{4-[(1-tert-butoxycarbonylaminocyclobutanecarbonyl)amino]phenyl}acrylate (943 mg, 2.43 mmol) in chloroform (10 ml) was added 4N HCl-ethyl acetate solution (10 ml) under ice-cooling, and the mixture was stirred for 4 hr. The solvent was evaporated under reduced pressure and hexane:diethyl ether (1:1) solution was added to the obtained residue. The precipitated solid was collected by filtration and washed with hexane:diethyl ether (1:1) solution. The obtained solid was dried in vacuo to give ethyl (E)-3-{4-[(1-aminocyclobutanecarbonyl)amino]phenyl}acrylate hydrochloride (720 mg, yield 91%).

reactant | ethyl (E)-3-{4-[(1-tert-butoxycarbonylaminocyclobutanecarbonyl)amino]phenyl}acrylate | 2.43 mmol, 943 mg | C(C)(C)(C)OC(=O)NC1(CCC1)C(=O)NC1=CC=C(C=C1)/C=C/C(=O)OCC | C21H28N2O5
reactant | HCl ethyl acetate | 4N, 10 ml | Cl.C(C)(=O)OCC
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | ethyl (E)-3-{4-[(1-aminocyclobutanecarbonyl)amino]phenyl}acrylate hydrochloride | 720 mg, yield 91% | Cl.NC1(CCC1)C(=O)NC1=CC=C(C=C1)/C=C/C(=O)OCC | InChI=1S/C16H20N2O3.ClH/c1-2-21-14(19)9-6-12-4-7-13(8-5-12)18-15(20)16(17)10-3-11-16;/h4-9H,2-3,10-11,17H2,1H3,(H,18,20);1H/b9-6+;
